US06635638B2
To a solution of 5-bromo-2-furoic acid (2.1 g, 6.856 mmol) in THF (20 mL) was added oxalyl chloride (0.66 mL, 7.541 mmol). 2 drops of DMF were then added to the reaction mixture, with bubbles of CO observed to come out vigorously. Oxalyl chloride ((COCl)2) (0.1 mL) was then added. The reaction mixture was stirred at room temperature for 10 min and at 90° C. for 10 min. Solvent and excess (COCl)2 were taken off under vacuum to yield 5-bromo-furan-2-carbonyl chloride as a pale yellow crystalline solid.

reactant | 5-bromo-2-furoic acid | 6.856 mmol, 2.1 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | oxalyl chloride | 7.541 mmol, 0.66 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Oxalyl chloride | 0.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (COCl)2 | C(=O)(C(=O)Cl)Cl | C2Cl2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 5-bromo-furan-2-carbonyl chloride | BrC1=CC=C(O1)C(=O)Cl | C5H2BrClO2
